US08211908B2
To a suspension of 0.50 g of 2-methoxypyrido(2,3-d)pyrimidin-7(8H)-one in 7.5 mL of N,N-dimethylformamide, 0.59 g of potassium carbonate was added at room temperature, the temperature was increased to 60 to 80° C., and the mixture was stirred for 1 hour. Thereto was added 0.35 mL of 2-bromomethyl-1,3-dioxolan at 80° C., the temperature of the reaction mixture was increased to 103° C., and the mixture was stirred for 3 hours 30 minutes. The reaction mixture was cooled to room temperature, and water and chloroform were added thereto. The organic layer was separated, and the aqueous layer was extracted with chloroform. The organic layer and the extract were combined, the resultant solution was washed with a saturated aqueous sodium chloride solution and dried over anhydrous magnesium sulfate, and the solvent was distilled off under reduced pressure. The resultant residue was purified by silica gel column chromatography using an eluent of chloroform:methanol=75:1 to obtain 0.60 g of 8-(1,3-dioxolan-2-ylmethyl)-2-methoxypyrido(2,3-d)pyrimidin-7(8H)-one as a yellow solid.

reactant | 2-methoxypyrido(2,3-d)pyrimidin-7(8H)-one | 0.50 g | COC=1N=CC2=C(N1)NC(C=C2)=O | C8H7N3O2
reactant | potassium carbonate | 0.59 g | C([O-])([O-])=O.[K+].[K+]
reactant | 2-bromomethyl-1,3-dioxolan | 0.35 mL | BrCC1OCCO1 | C4H7BrO2
reactant | water | O | H2O
solvent | N,N-dimethylformamide | 7.5 mL | CN(C=O)C | C3H7NO
solvent | chloroform | C(Cl)(Cl)Cl | CHCl3
product | 8-(1,3-dioxolan-2-ylmethyl)-2-methoxypyrido(2,3-d)pyrimidin-7(8H)-one | 0.60 g | O1C(OCC1)CN1C(C=CC2=C1N=C(N=C2)OC)=O | C12H13N3O4
